US04568670
To a mixture of 13.2 g of N,N-dimethylcarbamimidothioic acid, ethyl ester, 27.6 g of finely powdered potassium carbonate and 250 ml of acetonitrile, 16.1 g of phosphorochloridothioic acid, O,O-dimethyl ester was added. The mixture was stirred and heated to 40° C. for 4 hours. The salts were removed by filtration and the filtration concentrated in a rotary evaporator. The residue was taken up in methylene chloride, the methylene chloride solution washed thrice with 50 ml portions of water and dried over anhydrous magnesium sulfate. The solvent was removed in a rotary evaporator, leaving 20.0 g of crude product. To remove some lower boiling impurity the sample was placed in a Kugelrohr (bath temperature 95° C., pressure 0.2 mm) for 2 hours. The residue was exhaustively extracted with hexane and the hexane solution concentrated under vacuum, leaving N'-(dimethoxyphosphinothioyl)-N,N-dimethylcarbamimidothioic acid, ethyl ester as a nearly colorless oil. The product has a refractive index of nd25 =1.5610. The IR and NMR spectra were in agreement with the structural assignment.

reactant | N,N-dimethylcarbamimidothioic acid, ethyl ester | 13.2 g | CN(C(=N)SCC)C | C5H12N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phosphorochloridothioic acid, O,O-dimethyl ester | 16.1 g | P(OC)(OC)(Cl)=S | C2H6ClO2PS
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N'-(dimethoxyphosphinothioyl)-N,N-dimethylcarbamimidothioic acid, ethyl ester | COP(=S)(N=C(N(C)C)SCC)OC | C7H17N2O2PS2
